### PR TITLE
chore: cleanup to reflect proofs from lean3 for OuterMeasure

### PR DESCRIPTION
**Pull request by MonadMaverick**
---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

**Comment by eric-wieser** [comment]
Can you explain a bit what's going on here? If this is the mathport output, why does it not already reflect Lean 3?

**Comment by MonadMaverick** [comment]
> Can you explain a bit what's going on here? If this is the mathport output, why does it not already reflect Lean 3?

I fixed OuterMeasure.lean three weeks ago when I was new to Lean. I used whatever means necessary to get it working, even if it wasn't the most elegant way of doing things.

Since then, I've become more familiar with Lean. I've revised my fix to make it look more like the proofs from outermeasure.lean in Lean3.

File: Mathlib/MeasureTheory/Measure/OuterMeasure.lean [hunk 1]
```diff
@@ -1696,19 +1711,20 @@ theorem trim_sup (m₁ m₂ : OuterMeasure α) : (m₁ ⊔ m₂).trim = m₁.tri
...
+  trim (⨆ i, μ i) = ⨆ i, trim (μ i) := by
+    simp_rw [← @supᵢ_plift_down _ ι]
+    ext1 s
+    haveI : Countable (Option <| PLift ι) := by exact instCountableOption
+    obtain ⟨t, _, _, hμt⟩ :=
+      exists_measurable_superset_forall_eq_trim
+        (Option.elim' (⨆ i, μ (PLift.down i)) (μ ∘ PLift.down)) s
+    simp only [Option.forall, Option.elim'] at hμt
+    simp only [supᵢ_apply, ← hμt.1]
+    exact supᵢ_congr hμt.2
```
Comment (eric-wieser) [inline Mathlib/MeasureTheory/Measure/OuterMeasure.lean]: Indents are off here; the statement should be double-indented and the body single.

**Comment by eric-wieser** [comment]
To make it easier to review, I've pushed some commits so that this can be reviewed against the mathport output.

The first three commits are generated with `start_port.sh`, the fourth was some annoying regex to remove thousands of lines of mathport garbage, and the last one is exactly your original file.

File: Mathlib/MeasureTheory/Measure/OuterMeasure.lean [hunk 2]
```diff
@@ -290,76 +292,89 @@ variable [SMul R ℝ≥0∞] [IsScalarTower R ℝ≥0∞ ℝ≥0∞]
...
-instance : SMul R (OuterMeasure α) :=
+instance instSMul : SMul R (OuterMeasure α) :=
   ⟨fun c m =>
     { measureOf := fun s => c • m s
-      Empty := by rw [← smul_one_mul c (_ : ℝ≥0∞), empty', MulZeroClass.mul_zero]
-      mono := fun s t h => by
-        rw [← smul_one_mul c (m s), ← smul_one_mul c (m t)]
+      empty := by simp; rw [← smul_one_mul c]; simp
+      mono := fun {s t} h => by
+        simp
```
Comment (Ruben-VandeVelde) [inline Mathlib/MeasureTheory/Measure/OuterMeasure.lean]: Please remove the nonterminal simp

File: Mathlib/MeasureTheory/Measure/OuterMeasure.lean [hunk 3]
```diff
@@ -368,23 +383,25 @@ theorem univ_eq_zero_iff (m : OuterMeasure α) : m univ = 0 ↔ m = 0 :=
...
-      mono := fun s₁ s₂ hs => supᵢ₂_mono fun m hm => m.mono hs
+      empty := nonpos_iff_eq_zero.1 <| supᵢ₂_le fun m _ => le_of_eq m.empty
+      mono := fun {s₁ s₂} hs => supᵢ₂_mono fun m _ => m.mono hs
       unionᵢ_nat := fun f =>
         supᵢ₂_le fun m hm =>
           calc
             m (⋃ i, f i) ≤ ∑' i : ℕ, m (f i) := m.unionᵢ_nat _
             _ ≤ ∑' i, ⨆ m ∈ ms, (m : OuterMeasure α) (f i) :=
-              ENNReal.tsum_le_tsum fun i => le_supᵢ₂ m hm
+               ENNReal.tsum_le_tsum fun i => by apply le_supᵢ₂ m hm
```
Comment (Ruben-VandeVelde) [inline Mathlib/MeasureTheory/Measure/OuterMeasure.lean]: Is the indentation change intentional?

File: Mathlib/MeasureTheory/Measure/OuterMeasure.lean [hunk 4]
```diff
@@ -398,20 +415,22 @@ theorem supᵢ_apply {ι} (f : ι → OuterMeasure α) (s : Set α) : (⨆ i : 
...
-  have := supᵢ_apply (fun b => cond b m₁ m₂) s <;> rwa [supᵢ_bool_eq, supᵢ_bool_eq] at this
+  have := supᵢ_apply (fun b => cond b m₁ m₂) s; rwa [supᵢ_bool_eq, supᵢ_bool_eq] at this
 #align measure_theory.outer_measure.sup_apply MeasureTheory.OuterMeasure.sup_apply
 
 theorem smul_supᵢ [SMul R ℝ≥0∞] [IsScalarTower R ℝ≥0∞ ℝ≥0∞] {ι} (f : ι → OuterMeasure α) (c : R) :
     (c • ⨆ i, f i) = ⨆ i, c • f i :=
   ext fun s => by
-    simp only [smul_apply, supᵢ_apply, ← smul_one_mul c (f _ _), ← smul_one_mul c (supᵢ _),
-      ENNReal.mul_supᵢ]
+  rw [smul_apply, ← smul_one_mul, supᵢ]
```
Comment (Ruben-VandeVelde) [inline Mathlib/MeasureTheory/Measure/OuterMeasure.lean]: Indentation again

File: Mathlib/MeasureTheory/Measure/OuterMeasure.lean [hunk 5]
```diff
@@ -426,9 +445,9 @@ theorem mono'' {m₁ m₂ : OuterMeasure α} {s₁ s₂ : Set α} (hm : m₁ ≤
 def map {β} (f : α → β) : OuterMeasure α →ₗ[ℝ≥0∞] OuterMeasure β where
   toFun m :=
     { measureOf := fun s => m (f ⁻¹' s)
-      Empty := m.Empty
-      mono := fun s t h => m.mono (preimage_mono h)
-      unionᵢ_nat := fun s => by rw [preimage_Union] <;> exact m.Union_nat fun i => f ⁻¹' s i }
+      empty := m.empty
+      mono := fun {s t} h => m.mono (preimage_mono h)
+      unionᵢ_nat := fun s => by simp; apply m.unionᵢ_nat fun i => f ⁻¹' s i }
```
Comment (Ruben-VandeVelde) [inline Mathlib/MeasureTheory/Measure/OuterMeasure.lean]: Nonterminal simp

File: Mathlib/MeasureTheory/Measure/OuterMeasure.lean [hunk 6]
```diff
@@ -463,23 +482,26 @@ theorem map_supᵢ {β ι} (f : α → β) (m : ι → OuterMeasure α) : map f
   ext fun s => by simp only [map_apply, supᵢ_apply]
 #align measure_theory.outer_measure.map_supr MeasureTheory.OuterMeasure.map_supᵢ
 
-instance : Functor OuterMeasure where map α β f := map f
+instance instFunctor : Functor OuterMeasure where map {_ _} f := map f
```
Comment (Ruben-VandeVelde) [inline Mathlib/MeasureTheory/Measure/OuterMeasure.lean:485]: You should be able to drop the `{_ _}` here

File: Mathlib/MeasureTheory/Measure/OuterMeasure.lean [hunk 7]
```diff
@@ -509,15 +531,16 @@ theorem smul_dirac_apply (a : ℝ≥0∞) (b : α) (s : Set α) :
...
   toFun m :=
     { measureOf := fun s => m (f '' s)
-      Empty := by simp
-      mono := fun s t h => m.mono <| image_subset f h
+      empty := by simp
+      mono := fun {s t} h => m.mono <| image_subset f h
       unionᵢ_nat := fun s => by
-        rw [image_Union]
-        apply m.Union_nat }
+        simp
```
Comment (Ruben-VandeVelde) [inline Mathlib/MeasureTheory/Measure/OuterMeasure.lean]: Nonterminal simp

File: Mathlib/MeasureTheory/Measure/OuterMeasure.lean [hunk 8]
```diff
@@ -681,7 +700,7 @@ theorem ofFunction_le (s : Set α) : OuterMeasure.ofFunction m m_empty s ≤ m s
   let f : ℕ → Set α := fun i => Nat.casesOn i s fun _ => ∅
   infᵢ_le_of_le f <|
     infᵢ_le_of_le (subset_unionᵢ f 0) <|
-      le_of_eq <| tsum_eq_single 0 <| by rintro (_ | i) <;> simp [f, m_empty]
+      le_of_eq <| tsum_eq_single 0 <| by rintro (_ | i); simp; simp [m_empty]
```
Comment (Ruben-VandeVelde) [inline Mathlib/MeasureTheory/Measure/OuterMeasure.lean]: If you want to deal with two subgoals separately, they should be on their own line with a cdot in front

File: Mathlib/MeasureTheory/Measure/OuterMeasure.lean [hunk 9]
```diff
@@ -734,73 +752,77 @@ theorem ofFunction_union_of_top_of_nonempty_inter {s t : Set α}
...
 theorem smul_ofFunction {c : ℝ≥0∞} (hc : c ≠ ∞) :
     c • OuterMeasure.ofFunction m m_empty = OuterMeasure.ofFunction (c • m) (by simp [m_empty]) :=
   by
   ext1 s
-  haveI : Nonempty { t : ℕ → Set α // s ⊆ ⋃ i, t i } := ⟨⟨fun _ => s, subset_Union (fun _ => s) 0⟩⟩
-  simp only [smul_apply, of_function_apply, ENNReal.tsum_mul_left, Pi.smul_apply, smul_eq_mul,
-    infᵢ_subtype', ENNReal.infᵢ_mul_left fun h => (hc h).elim]
+  haveI : Nonempty { t : ℕ → Set α // s ⊆ ⋃ i, t i } := ⟨⟨fun _ => s, subset_unionᵢ (fun _ => s) 0⟩⟩
+  simp only [smul_apply, ofFunction_apply, ENNReal.tsum_mul_left, Pi.smul_apply, smul_eq_mul,
+  infᵢ_subtype']
```
Comment (Ruben-VandeVelde) [inline Mathlib/MeasureTheory/Measure/OuterMeasure.lean]: Indentation

File: Mathlib/MeasureTheory/Measure/OuterMeasure.lean [hunk 10]
```diff
@@ -824,59 +846,60 @@ theorem boundedBy_le (s : Set α) : boundedBy m s ≤ m s :=
...
     μ ≤ boundedBy m ↔ ∀ s : Set α, s.Nonempty → μ s ≤ m s := by
-  rw [le_bounded_by, forall_congr']
+  rw [le_boundedBy, forall_congr']
   intro s
   cases' s.eq_empty_or_nonempty with h h <;> simp [h]
 #align measure_theory.outer_measure.le_bounded_by' MeasureTheory.OuterMeasure.le_bounded_by'
 
 theorem smul_boundedBy {c : ℝ≥0∞} (hc : c ≠ ∞) : c • boundedBy m = boundedBy (c • m) := by
-  simp only [bounded_by, smul_of_function hc]
+  simp only [boundedBy , smul_ofFunction hc]
```
Comment (Ruben-VandeVelde) [inline Mathlib/MeasureTheory/Measure/OuterMeasure.lean]: No space before the comma

File: Mathlib/MeasureTheory/Measure/OuterMeasure.lean [hunk 11]
```diff
@@ -1185,80 +1207,81 @@ theorem comap_infᵢ {ι β} (f : α → β) (m : ι → OuterMeasure β) :
...
+  refine' (map_infᵢ_le _ _).antisymm fun s => _
   simp only [map_apply, comap_apply, infᵢ_apply, le_infᵢ_iff]
   refine' fun t ht => infᵢ_le_of_le (fun n => f '' t n ∪ range fᶜ) (infᵢ_le_of_le _ _)
-  · rw [← Union_union, Set.union_comm, ← inter_subset, ← image_Union, ←
+  · rw [← unionᵢ_union, Set.union_comm, ← inter_subset, ← image_unionᵢ, ←
       image_preimage_eq_inter_range]
     exact image_subset _ ht
   · refine' ENNReal.tsum_le_tsum fun n => infᵢ_mono fun i => (m i).mono _
     simp
+    exact subset_refl _
```
Comment (Ruben-VandeVelde) [inline Mathlib/MeasureTheory/Measure/OuterMeasure.lean]: Was the issue that caused this not fixed recently? Please add a porting note

File: Mathlib/MeasureTheory/Measure/OuterMeasure.lean [hunk 12]
```diff
@@ -1615,34 +1630,34 @@ theorem trim_zero : (0 : OuterMeasure α).trim = 0 :=
 
 theorem trim_sum_ge {ι} (m : ι → OuterMeasure α) : (sum fun i => (m i).trim) ≤ (sum m).trim :=
   fun s => by
-  simp [trim_eq_infi] <;>
+  simp [trim_eq_infᵢ];
```
Comment (Ruben-VandeVelde) [inline Mathlib/MeasureTheory/Measure/OuterMeasure.lean]: Please remove the semicolon and de-indent the next line

**Review by Ruben-VandeVelde — CHANGES_REQUESTED** [review]

File: Mathlib/MeasureTheory/Measure/OuterMeasure.lean (hunk 2 above)
Comment (MonadMaverick) [reply Mathlib/MeasureTheory/Measure/OuterMeasure.lean]: For this one if I remove line 300, I get "tactic 'rewrite' failed, did not find instance of the pattern in the target expression
  c • ?y"

File: Mathlib/MeasureTheory/Measure/OuterMeasure.lean (hunk 3 above)
Comment (MonadMaverick) [reply Mathlib/MeasureTheory/Measure/OuterMeasure.lean]: Without by apply:
```
type mismatch
  le_supᵢ₂ m hm
has type
  ?m.67029 m hm ≤ ⨆ i, ⨆ j, ?m.67029 i j : Prop
but is expected to have type
  ↑m (f i) ≤ ⨆ m, ⨆ h, ↑m (f i) : Prop
```

File: Mathlib/MeasureTheory/Measure/OuterMeasure.lean (hunk 7 above)
Comment (MonadMaverick) [reply Mathlib/MeasureTheory/Measure/OuterMeasure.lean]: simp only works here

File: Mathlib/MeasureTheory/Measure/OuterMeasure.lean (hunk 4 above)
Comment (MonadMaverick) [reply Mathlib/MeasureTheory/Measure/OuterMeasure.lean]: Could you please explain a bit more?
```
theorem smul_supᵢ [SMul R ℝ≥0∞] [IsScalarTower R ℝ≥0∞ ℝ≥0∞] {ι} (f : ι → OuterMeasure α) (c : R) :
    (c • ⨆ i, f i) = ⨆ i, c • f i :=
  ext fun s => by
  rw [smul_apply, ← smul_one_mul, supᵢ]
  simp only [supᵢ_apply, smul_apply, ← smul_one_mul c (f _ _)]
  rw [←supᵢ, ←ENNReal.mul_supᵢ]
  simp
#align measure_theory.outer_measure.smul_supr MeasureTheory.OuterMeasure.smul_supᵢ
```

`(c • ⨆ i, f i) = ⨆ i, c • f i :=` is part of the statement. So it has 2x indent.
`ext fun s => by` is the beginning of body. So it has 1x indent.
Am I misunderstanding the indentation rules?

File: Mathlib/MeasureTheory/Measure/OuterMeasure.lean (hunk 9 above)
Comment (MonadMaverick) [reply Mathlib/MeasureTheory/Measure/OuterMeasure.lean]:
```
theorem smul_ofFunction {c : ℝ≥0∞} (hc : c ≠ ∞) :
    c • OuterMeasure.ofFunction m m_empty = OuterMeasure.ofFunction (c • m) (by simp [m_empty]) :=
  by
  ext1 s
  haveI : Nonempty { t : ℕ → Set α // s ⊆ ⋃ i, t i } := ⟨⟨fun _ => s, subset_unionᵢ (fun _ => s) 0⟩⟩
  simp only [smul_apply, ofFunction_apply, ENNReal.tsum_mul_left, Pi.smul_apply, smul_eq_mul,
  infᵢ_subtype']
  rw [ENNReal.infᵢ_mul_left fun h => (hc h).elim]
```

`by` has its own line because the line before has spans 99 characters.

What should I do here?

Sorry, I'm a new contributor. Please bear with me. Where can I find the documentation about indentation rules?

File: Mathlib/MeasureTheory/Measure/OuterMeasure.lean (hunk 3 above)
Comment (semorrison) [reply Mathlib/MeasureTheory/Measure/OuterMeasure.lean]: @Ruben-VandeVelde was asking about the space you added immediately before the `ENNReal.tsum_le_tsum`.

File: Mathlib/MeasureTheory/Measure/OuterMeasure.lean (hunk 4 above)
Comment (semorrison) [reply Mathlib/MeasureTheory/Measure/OuterMeasure.lean]: The tactics in the `by` block should be indented one more step.

File: Mathlib/MeasureTheory/Measure/OuterMeasure.lean (hunk 9 above)
Comment (semorrison) [reply Mathlib/MeasureTheory/Measure/OuterMeasure.lean]: If `simp [...]` spills over onto another line, because you have many lemmas, the subsequent lines should have an additional indentation.

**Comment by semorrison** [comment]
@MonadMaverick, could you please click "Resolve" on the conversations above if you're happy with them? If you've made changes that make conversations obsolete, it's best to click resolve, so other reviewers arriving don't have to work out what they are about / why they are obsolete.
